US07825147B2
2-(4-Methylene-cyclohexyl)-isoindole-1,3-dione
Aminocyclohexanol hydrochloride (6.3 g, 41.6 mmol) and triethylamine (11.6 mL, 83.1 mmol) were stirred in toluene (150 mL) at room temperature for 1 hour. To this was added phthalic anhydride (7.4 g, 49.9 mmol) and the reaction mixture was stirred at 120-130° C. The by-product water was removed from the reaction mixture. Toluene was concentrated under reduced pressure. The crude compound thus obtained was purified by column chromatography using ether in hexane solvent mixture (2:1) as eluent to furnish the title compound (8.5 g, 84%).

reactant | Aminocyclohexanol hydrochloride | 41.6 mmol, 6.3 g | Cl.NC1(CCCCC1)O
reactant | triethylamine | 83.1 mmol, 11.6 mL | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 49.9 mmol, 7.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methylene-cyclohexyl)-isoindole-1,3-dione | 8.5 g, 84% | C=C1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C15H15NO2
